US08877944B2
6-Chloro-2-[1-(4,4-difluorocyclohexyl)piperidin-4-yl]-3-oxo-2,3-dihydro-1H-isoindole-4-carbonitrile
2-[1-(4,4-Difluorocyclohexyl)piperidin-4-yl]-5-chloro-7-iodo-2,3-dihydro-1H-isoindol-1-one (80 mg, 0.16 mmol) and copper(I) cyanide (22 mg, 0.24 mmol) were dissolved in N,N-dimethylformamide (1 mL) and the resulted solution was refluxed under nitrogen atmosphere for 3 hours. The solvent was removed under reduced pressure and the residue was diluted with dichloromethane and washed with 15% ammonium hydroxide. Organic phase was dried over sodium sulfate, filtered and evaporated. Column chromatography (dichloromethane/ethanol:95/5) afforded title compound (46 mg, 72% yield).

reactant | 2-[1-(4,4-Difluorocyclohexyl)piperidin-4-yl]-5-chloro-7-iodo-2,3-dihydro-1H-isoindol-1-one | 0.16 mmol, 80 mg | FC1(CCC(CC1)N1CCC(CC1)N1C(C2=C(C=C(C=C2C1)Cl)I)=O)F | C19H22ClF2IN2O
reactant | copper(I) cyanide | 0.24 mmol, 22 mg | [Cu]C#N
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-2-[1-(4,4-difluorocyclohexyl)piperidin-4-yl]-3-oxo-2,3-dihydro-1H-isoindole-4-carbonitrile | 46 mg, 72% yield | ClC=1C=C(C=2C(N(CC2C1)C1CCN(CC1)C1CCC(CC1)(F)F)=O)C#N | C20H22ClF2N3O
